US07507734B2
To a solution of 1 g 1-(tert-butoxycarbonyl)-6-(tert-butyldimethylsiloxy)indole in 15 mL anhydrous tetrahydrofuran at −78° C. under nitrogen is added tert-butyllithium (2.30 mL of a 1.5 M solution in pentane) over 3 min, and the reaction is stirred at ˜78° C. After 32 min, 0.66 mL trimethylborate are added in one portion, and the reaction is stirred at 0° C. After 2 h, 9 mL saturated aqueous ammonium chloride are added, the mixture diluted with 25 mL ether, and stirred at ambient temperature. The reaction is acidified with 4 mL of a solution made from 10% aqueous KHSO4 (60 mL) and concentrated H2SO4 (2 mL). After stirring for 15 min, the layers are separated and the organics are washed with water (15 mL) and brine (15 mL) successively, dried (Na2SO4), and the solvent is removed under reduced pressure to yield a partially solidified material. The material is washed with hot hexanes (5 mL) and filtered. The collected solid is washed with hexanes (2×5 mL) to give 635 mg (56%) of 1-(tert-butoxycarbonyl)-6-(tert-butyldimethylsiloxy)indole-2-boronic acid as a white powder.

reactant | 1-(tert-butoxycarbonyl)-6-(tert-butyldimethylsiloxy)indole | 1 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C | C19H29NO3Si
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | trimethylborate | 0.66 mL | COB(OC)OC | C3H9BO3
reactant | ammonium chloride | 9 mL | [Cl-].[NH4+]
reactant | KHSO4 | 60 mL | OS(=O)(=O)[O-].[K+]
reactant | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | ether | 25 mL | CCOCC | C4H10O
product | 1-(tert-butoxycarbonyl)-6-(tert-butyldimethylsiloxy)indole-2-boronic acid | 635 mg, 56% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)B(O)O | C19H30BNO5Si
